US05314885
A solution of γ-valerolactam (7 g, 70.5 mmol) in THF (150 mL) and DMSO (20 mL) was treated with NaH (2.83 g of a 60% oil dispersion) at 0° C. under nitrogen atmosphere. After a total of 15 min, α,α'-dichloro-o-xylene (25 g, 140 mmol) was added and the solution was allowed to warm and stir at room temperature. After 4 h, 100 mL of ether and 100 mL of 0.2 N HCl were added. The water was withdrawn, and the organic layer was washed 2× more with water, dried (MgSO4), filtered and concentrated. This material was purified on ca. 400 g of silica gel (flash chromatography; EtOAc/hexane 7:3) to yield N-[2-(chloromethyl)benzyl]-γ-valerolactam (6.6 g, 40%). 1H NMR and mass spectral analysis supported the assigned structure. A solution of this lactam (5.0 g, 21.09 mmol), 2-(isopropoxy)phenylpiperazine fumarate (6.38 g, 18.99 mmol), and triethylamine (8.82 mL, 62.37 mmol) in DMF (75 mL) was heated for 3 h at 50°-60° C. After 3 h, the solution was added to a 3:1 solution of ether/ethyl acetate (ca. 100 mL) and extracted 3X with water, dried (MgSO4), filtered and concentrated. The residual oil was purified on ca. 400 g of silica gel (flash chromatography, EtOAc/hexane, 6:4) to give 5.41 g of white semi-solid, pure by thin layer chromatography. It was then dissolved in iPrOH, filtered through a Millipore filter, treated with 2.44 mL of conc. aqueous HCl (ca. 26 mmol), and then triturated out of solution by the addition of ether. The resultant white solid was recrystallized in MeOH/ether to give 1-[[2-[[1-[2-(methylethoxy)phenyl]-4-piperazinyl]methyl]phenyl]methyl]-piperidin-2-one hydrochloride(3:2)as a white powder (5.50 g, 61%), m.p. 249.5°-252.5° C. 1H NMR and mass spectral analysis supported the assigned structure.

reactant | γ-valerolactam | 70.5 mmol, 7 g | C1(CCC(C)N1)=O | C5H9NO
reactant | NaH | [H-].[Na+]
reactant | α,α'-dichloro-o-xylene | 140 mmol, 25 g | ClCC=1C(=CC=CC1)CCl | C8H8Cl2
reactant | HCl | 0.2 N, 100 mL | Cl | ClH
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | ether | 100 mL | CCOCC | C4H10O
product | N-[2-(chloromethyl)benzyl]-γ-valerolactam | 6.6 g, 40% | ClCC1=C(CN2C(CCC2C)=O)C=CC=C1 | C13H16ClNO
